** sch_path: /foss/designs/CL-foldedOTA.sch
**.subckt CL-foldedOTA
VPac VinP GND 1.8 ac 100m
Vbnmos Vbn GND 1.25
Vbpmos Vbp GND 0.5
VDD VDD GND 3.3
x1 VDD Vbp Vout VinP Vout Vbn GND foldedOTA
C1 Vout GND 10p
**** begin user architecture code



.lib cornerMOShv.lib mos_tt




.control
destroy all
ac dec 20 1 900Meg
run

let gain_db    = db(Vout/VinP)
let gain_phase = phase(Vout/VinP)*180/PI

save all

meas ac dc_gain_cl find gain_db at=1
meas ac f3db_cl    when gain_db='dc_gain_cl-3'
meas ac gpeak      max  gain_db

plot gain_db    ylabel 'Gain (dB)'   xlog title 'Closed-Loop Gain'
plot gain_phase ylabel 'Phase (deg)' xlog title 'Closed-Loop Phase'

echo
echo '================ CLOSED-LOOP AC SUMMARY ================'
print dc_gain_cl
print f3db_cl
print gpeak
echo '=========================================================='

.endc


**** end user architecture code
**.ends

* expanding   symbol:  foldedOTA.sym # of pins=7
** sym_path: /foss/designs/foldedOTA.sym
** sch_path: /foss/designs/foldedOTA.sch
.subckt foldedOTA VDD Vbp VOUT VinP VinN Vbn VSS
*.iopin VDD
*.iopin VSS
*.iopin VOUT
*.iopin Vbp
*.iopin Vbn
*.iopin VinN
*.iopin VinP
XM1 net2 VinP net1 VSS sg13_hv_nmos w=28u l=1u ng=4
XM2 net3 VinN net1 VSS sg13_hv_nmos w=28u l=1u ng=4
XM3 net1 net8 VSS VSS sg13_hv_nmos w=15u l=1u ng=3
XM4 net2 net7 VDD VDD sg13_hv_pmos w=14u l=1u ng=2
XM5 net3 net7 VDD VDD sg13_hv_pmos w=14u l=1u ng=2
XM6 net4 Vbp net2 VDD sg13_hv_pmos w=2u l=1u ng=1
XM7 VOUT Vbp net3 VDD sg13_hv_pmos w=2u l=1u ng=1
XM8 net4 Vbn net5 VSS sg13_hv_nmos w=7u l=1u ng=1
XM9 VOUT Vbn net6 VSS sg13_hv_nmos w=7u l=1u ng=1
XM10 net5 net4 VSS VSS sg13_hv_nmos w=7u l=1u ng=1
XM11 net6 net4 VSS VSS sg13_hv_nmos w=7u l=1u ng=1
XM12 net8 net8 VSS VSS sg13_hv_nmos w=15u l=1u ng=3
I0 VDD net8 50u
XM13 net7 net7 VDD VDD sg13_hv_pmos w=14u l=1u ng=2
I1 net7 VSS 50u
.ends

.GLOBAL GND
.end
