** sch_path: /foss/designs/CMRR-foldedOTA.sch
**.subckt CMRR-foldedOTA
VPac VinP GND 1.8 ac 100m
VNac VinN GND 1.8 ac 100m
Vbnmos Vbn GND 1.25
Vbpmos Vbp GND 0.5
VDD VDD GND 3.3
x1 VDD Vbp Vout VinP VinN Vbn GND foldedOTA
C1 Vout GND 10p
**** begin user architecture code



.lib cornerMOShv.lib mos_tt




.control
close all
destroy all

ac dec 20 1 500Meg
let gain_cm_db = db(Vout/VinP)
meas ac acm_dc_gain find gain_cm_db at=1

alter VNac ac = -100m
ac dec 20 1 200G
let VinDiff = v(VinP) - v(VinN)
let gain_dm_db = db(Vout/VinDiff)
meas ac adm_dc_gain find gain_dm_db at=1

let cmrr_dc   = adm_dc_gain - ac1.acm_dc_gain
let cmrr_full = gain_dm_db  - ac1.gain_cm_db

echo
echo '================ CMRR RESULTS ================'
print adm_dc_gain
print ac1.acm_dc_gain
print cmrr_dc
echo '================================================'

* --- plots ---
plot ac1.gain_cm_db gain_dm_db ylabel 'Gain (dB)' xlog title 'Common-Mode vs Differential Gain'
plot cmrr_full ylabel 'CMRR (dB)' xlog title 'CMRR vs Frequency'

.endc


**** end user architecture code
**.ends

* expanding   symbol:  foldedOTA.sym # of pins=7
** sym_path: /foss/designs/foldedOTA.sym
** sch_path: /foss/designs/foldedOTA.sch
.subckt foldedOTA VDD Vbp VOUT VinP VinN Vbn VSS
*.iopin VDD
*.iopin VSS
*.iopin VOUT
*.iopin Vbp
*.iopin Vbn
*.iopin VinN
*.iopin VinP
XM1 net2 VinP net1 VSS sg13_hv_nmos w=28u l=1u ng=4
XM2 net3 VinN net1 VSS sg13_hv_nmos w=28u l=1u ng=4
XM3 net1 net8 VSS VSS sg13_hv_nmos w=15u l=1u ng=3
XM4 net2 net7 VDD VDD sg13_hv_pmos w=14u l=1u ng=2
XM5 net3 net7 VDD VDD sg13_hv_pmos w=14u l=1u ng=2
XM6 net4 Vbp net2 VDD sg13_hv_pmos w=2u l=1u ng=1
XM7 VOUT Vbp net3 VDD sg13_hv_pmos w=2u l=1u ng=1
XM8 net4 Vbn net5 VSS sg13_hv_nmos w=7u l=1u ng=1
XM9 VOUT Vbn net6 VSS sg13_hv_nmos w=7u l=1u ng=1
XM10 net5 net4 VSS VSS sg13_hv_nmos w=7u l=1u ng=1
XM11 net6 net4 VSS VSS sg13_hv_nmos w=7u l=1u ng=1
XM12 net8 net8 VSS VSS sg13_hv_nmos w=15u l=1u ng=3
I0 VDD net8 50u
XM13 net7 net7 VDD VDD sg13_hv_pmos w=14u l=1u ng=2
I1 net7 VSS 50u
.ends

.GLOBAL GND
.end
