** sch_path: /foss/designs/OP-foldedOTA.sch
**.subckt OP-foldedOTA
XM1 net5 VinP net1 0 sg13_hv_nmos w=28u l=1u ng=4
XM2 net6 VinN net1 0 sg13_hv_nmos w=28u l=1u ng=4
XM3 net1 net3 0 0 sg13_hv_nmos w=15u l=1u ng=3
XM4 net5 Vb1 VDD VDD sg13_hv_pmos w=14u l=1u ng=2
XM5 net6 Vb1 VDD VDD sg13_hv_pmos w=14u l=1u ng=2
XM6 net2 Vbp net5 VDD sg13_hv_pmos w=2u l=1u ng=1
XM7 Vout Vbp net6 VDD sg13_hv_pmos w=2u l=1u ng=1
XM8 net2 Vbn net4 0 sg13_hv_nmos w=7u l=1u ng=1
XM9 Vout Vbn net7 0 sg13_hv_nmos w=7u l=1u ng=1
XM10 net4 net2 0 0 sg13_hv_nmos w=7u l=1u ng=1
XM11 net7 net2 0 0 sg13_hv_nmos w=7u l=1u ng=1
XM12 net3 net3 0 0 sg13_hv_nmos w=15u l=1u ng=3
I0 VDD net3 50u
XM13 Vb1 Vb1 VDD VDD sg13_hv_pmos w=14u l=1u ng=2
I1 Vb1 0 50u
VPac VinP GND 1.8 ac 100m
VNac VinN GND 1.8 ac -100m
Vbnmos Vbn GND 1.25
Vbpmos Vbp GND 0.5
C1 Vout 0 10p
VDD VDD GND 3.3
**** begin user architecture code



.lib cornerMOShv.lib mos_tt




.include OP-foldedOTA.save
.control
op
write OP-foldedOTA.raw
.endc


**** end user architecture code
**.ends
.GLOBAL GND
.end
