** sch_path: /foss/designs/SR-foldedOTA.sch
**.subckt SR-foldedOTA
VPac VinP GND PULSE(1.25 2.05 0 10n 10n 1u 2u)
Vbnmos Vbn GND 1.25
Vbpmos Vbp GND 0.5
VDD VDD GND 3.3
x1 VDD Vbp Vout VinP Vout Vbn GND foldedOTA
C1 Vout GND 10p
**** begin user architecture code



.lib cornerMOShv.lib mos_sf




.control
destroy all
tran 1n 2u
run
save all

meas tran sr_rise_td trig v(vout) val=1.33 rise=1 targ v(vout) val=1.97 rise=1
meas tran sr_fall_td trig v(vout) val=1.97 fall=1 targ v(vout) val=1.33 fall=1

let sr_rise = 0.64 / sr_rise_td
let sr_fall = 0.64 / sr_fall_td

plot v(vinp) v(vout) ylabel 'Voltage (V)' title 'Slew Rate Step Response'
echo
echo '================ SLEW RATE SUMMARY ================'
print sr_rise
print sr_fall
echo '====================================================='
.endc


**** end user architecture code
**.ends

* expanding   symbol:  foldedOTA.sym # of pins=7
** sym_path: /foss/designs/foldedOTA.sym
** sch_path: /foss/designs/foldedOTA.sch
.subckt foldedOTA VDD Vbp VOUT VinP VinN Vbn VSS
*.iopin VDD
*.iopin VSS
*.iopin VOUT
*.iopin Vbp
*.iopin Vbn
*.iopin VinN
*.iopin VinP
XM1 net2 VinP net1 VSS sg13_hv_nmos w=28u l=1u ng=4
XM2 net3 VinN net1 VSS sg13_hv_nmos w=28u l=1u ng=4
XM3 net1 net8 VSS VSS sg13_hv_nmos w=15u l=1u ng=3
XM4 net2 net7 VDD VDD sg13_hv_pmos w=14u l=1u ng=2
XM5 net3 net7 VDD VDD sg13_hv_pmos w=14u l=1u ng=2
XM6 net4 Vbp net2 VDD sg13_hv_pmos w=2u l=1u ng=1
XM7 VOUT Vbp net3 VDD sg13_hv_pmos w=2u l=1u ng=1
XM8 net4 Vbn net5 VSS sg13_hv_nmos w=7u l=1u ng=1
XM9 VOUT Vbn net6 VSS sg13_hv_nmos w=7u l=1u ng=1
XM10 net5 net4 VSS VSS sg13_hv_nmos w=7u l=1u ng=1
XM11 net6 net4 VSS VSS sg13_hv_nmos w=7u l=1u ng=1
XM12 net8 net8 VSS VSS sg13_hv_nmos w=15u l=1u ng=3
I0 VDD net8 50u
XM13 net7 net7 VDD VDD sg13_hv_pmos w=14u l=1u ng=2
I1 net7 VSS 50u
.ends

.GLOBAL GND
.end
