** sch_path: /foss/designs/AC-foldedOTA.sch
**.subckt AC-foldedOTA
VPac VinP GND 1.8 ac 100m
VNac VinN GND 1.8 ac -100m
Vbnmos Vbn GND 1.25
Vbpmos Vbp GND 0.5
VDD VDD GND 3.3
x1 VDD Vbp Vout VinP VinN Vbn GND foldedOTA
C1 Vout GND 10p
**** begin user architecture code



.lib cornerMOShv.lib mos_sf




.control
destroy all

ac dec 20 1 100Meg
run

let VinDiff = v(VinP) - v(VinN)
let gain_db = db(Vout/VinDiff)
let gain_phase = phase(Vout/VinDiff)*180/PI

save all

meas ac dc_gain      find gain_db at=1
meas ac f3db         when gain_db='dc_gain-3'
meas ac gbw          when gain_db=0
meas ac phase_at_gbw find gain_phase when gain_db=0
let phase_margin = 180 + phase_at_gbw

plot gain_db
plot gain_phase
plot gain_db gain_phase

print dc_gain
print f3db
print gbw
print phase_margin
.endc


**** end user architecture code
**.ends

* expanding   symbol:  foldedOTA.sym # of pins=7
** sym_path: /foss/designs/foldedOTA.sym
** sch_path: /foss/designs/foldedOTA.sch
.subckt foldedOTA VDD Vbp VOUT VinP VinN Vbn VSS
*.iopin VDD
*.iopin VSS
*.iopin VOUT
*.iopin Vbp
*.iopin Vbn
*.iopin VinN
*.iopin VinP
XM1 net2 VinP net1 VSS sg13_hv_nmos w=28u l=1u ng=4
XM2 net3 VinN net1 VSS sg13_hv_nmos w=28u l=1u ng=4
XM3 net1 net8 VSS VSS sg13_hv_nmos w=15u l=1u ng=3
XM4 net2 net7 VDD VDD sg13_hv_pmos w=14u l=1u ng=2
XM5 net3 net7 VDD VDD sg13_hv_pmos w=14u l=1u ng=2
XM6 net4 Vbp net2 VDD sg13_hv_pmos w=2u l=1u ng=1
XM7 VOUT Vbp net3 VDD sg13_hv_pmos w=2u l=1u ng=1
XM8 net4 Vbn net5 VSS sg13_hv_nmos w=7u l=1u ng=1
XM9 VOUT Vbn net6 VSS sg13_hv_nmos w=7u l=1u ng=1
XM10 net5 net4 VSS VSS sg13_hv_nmos w=7u l=1u ng=1
XM11 net6 net4 VSS VSS sg13_hv_nmos w=7u l=1u ng=1
XM12 net8 net8 VSS VSS sg13_hv_nmos w=15u l=1u ng=3
I0 VDD net8 50u
XM13 net7 net7 VDD VDD sg13_hv_pmos w=14u l=1u ng=2
I1 net7 VSS 50u
.ends

.GLOBAL GND
.end
