** sch_path: /foss/designs/PSRRp-foldedOTA.sch
**.subckt PSRRp-foldedOTA
VPac VinP GND 1.8
VNac VinN GND 1.8
Vbnmos Vbn GND 1.25
Vbpmos Vbp GND 0.5
VDD VDD GND 3.3 ac 1
x1 VDD Vbp Vout VinP VinN Vbn GND foldedOTA
C1 Vout GND 10p
**** begin user architecture code



.lib cornerMOShv.lib mos_tt




.control
close all
destroy all

ac dec 20 1 900Meg
let gain_vdd_db = db(Vout/VDD)
meas ac avdd_dc_gain find gain_vdd_db at=1

alter VPac ac = 100m
alter VNac ac = -100m
alter VDD ac = 0
ac dec 20 1 1000G
let VinDiff = v(VinP) - v(VinN)
let gain_dm_db = db(Vout/VinDiff)
meas ac adm_dc_gain find gain_dm_db at=1

let psrr_dc = adm_dc_gain - ac1.avdd_dc_gain
let psrr_full = gain_dm_db - ac1.gain_vdd_db

print adm_dc_gain
print ac1.avdd_dc_gain
print psrr_dc

plot ac1.gain_vdd_db gain_dm_db
plot psrr_full
.endc


**** end user architecture code
**.ends

* expanding   symbol:  foldedOTA.sym # of pins=7
** sym_path: /foss/designs/foldedOTA.sym
** sch_path: /foss/designs/foldedOTA.sch
.subckt foldedOTA VDD Vbp VOUT VinP VinN Vbn VSS
*.iopin VDD
*.iopin VSS
*.iopin VOUT
*.iopin Vbp
*.iopin Vbn
*.iopin VinN
*.iopin VinP
XM1 net2 VinP net1 VSS sg13_hv_nmos w=28u l=1u ng=4
XM2 net3 VinN net1 VSS sg13_hv_nmos w=28u l=1u ng=4
XM3 net1 net8 VSS VSS sg13_hv_nmos w=15u l=1u ng=3
XM4 net2 net7 VDD VDD sg13_hv_pmos w=14u l=1u ng=2
XM5 net3 net7 VDD VDD sg13_hv_pmos w=14u l=1u ng=2
XM6 net4 Vbp net2 VDD sg13_hv_pmos w=2u l=1u ng=1
XM7 VOUT Vbp net3 VDD sg13_hv_pmos w=2u l=1u ng=1
XM8 net4 Vbn net5 VSS sg13_hv_nmos w=7u l=1u ng=1
XM9 VOUT Vbn net6 VSS sg13_hv_nmos w=7u l=1u ng=1
XM10 net5 net4 VSS VSS sg13_hv_nmos w=7u l=1u ng=1
XM11 net6 net4 VSS VSS sg13_hv_nmos w=7u l=1u ng=1
XM12 net8 net8 VSS VSS sg13_hv_nmos w=15u l=1u ng=3
I0 VDD net8 50u
XM13 net7 net7 VDD VDD sg13_hv_pmos w=14u l=1u ng=2
I1 net7 VSS 50u
.ends

.GLOBAL GND
.end
